US05854245
To a 100 mL round bottomed flask with a stirring bar and a gas dispersion tube was added tert-butyl 4-(4-(4-(1,1-dimethylethoxycarbonyl)piperazin-1-yl)phenylaminocarbonyl)phenoxyacetate (0.78 g, 1.52 mmol) and EtOAc (40 mL). This solution was cooled in an ice bath and HCl gas was sparged through the solution for 15 min. The resulting mixture was aged 90 min. The excess HCl and EtOAc were removed in vacuo and the crude product was purified by preparative reverse phase HPLC. There was obtained 0.218 g of 4-(4-(piperazin-1-yl)phenylaminocarbonyl)phenoxyacetic acid as a crystalline solid.

reactant | tert-butyl 4-(4-(4-(1,1-dimethylethoxycarbonyl)piperazin-1-yl)phenylaminocarbonyl)phenoxyacetate | 1.52 mmol, 0.78 g | CC(C)(OC(=O)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)C1=CC=C(OCC(=O)OC(C)(C)C)C=C1)C | C28H37N3O6
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | 4-(4-(piperazin-1-yl)phenylaminocarbonyl)phenoxyacetic acid | 0.218 g | N1(CCNCC1)C1=CC=C(C=C1)NC(=O)C1=CC=C(OCC(=O)O)C=C1 | C19H21N3O4
